US07417169B2
A mixture of methyl 4-{2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]ethoxy}biphenyl-4-carboxylate (0.064 g), a 2 mol/L aqueous solution of sodium hydroxide (0.162 mL), ethanol (2 mL) and tetrahydrofuran (2 mL) was heated under reflux overnight. To the ice-cooled reaction mixture was added 2 mol/L hydrochloric acid (0.162 mL), and the solvent was evaporated under reduced pressure. The residue was washed with water to afford 4′-{2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]ethoxy}biphenyl-4-carboxylic acid (0.06 g) as a crude product.

reactant | methyl 4-{2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]ethoxy}biphenyl-4-carboxylate | 0.064 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCOC1(CC=C(C=C1)C1=CC=CC=C1)C(=O)OC)O)NS(=O)(=O)C | C32H36N2O7S
reactant | sodium hydroxide | 0.162 mL | [OH-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 2 mol/L, 0.162 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4′-{2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]ethoxy}biphenyl-4-carboxylic acid | 0.06 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)O)NS(=O)(=O)C | C31H32N2O7S
